US05955464
A mixture of 6-fluoro-4-(3-methylanilino)quinazoline hydrochloride salt (0.347 g), benzimidazole (0.33 g), potassium carbonate (0.78 g) and DMF (7 ml) was stirred and heated at 150° C. for 24 hours. The mixture was evaporated and the residue was suspended in a mixture of methylene chloride and methanol. The suspension was filtered and the filtrate was evaporated to give a solid which was washed with ethyl acetate and purified by column chromatography using a 24:1 mixture of methylene chloride and methanol as eluent. The resultant solid was triturated with methylene chloride, filtered and dried to give 6-(1-benzimidazolyl)-4-(3-methylanilino)quinazoline (0.2 g), m.p. 245-246° C.; NMR Spectrum: (CD3SOCD3) 2.35 (s, 3H), 6.96-6.99 (d, 1H), 7.27-7.33 (t, 1H), 7.35-7.42 (m, 2H), 7.64-7.77 (m, 3H), 7.82-7.86 (m, 1H), 7.99-8.03 (d, 1H), 8.15-8.20 (m, 1H), 8.66 (s, 2H), 8.90 (d, 1H), 9.80 (s, 1H);

reactant | 6-fluoro-4-(3-methylanilino)quinazoline hydrochloride salt | 0.347 g | Cl.FC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)C
reactant | benzimidazole | 0.33 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 0.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 6-(1-benzimidazolyl)-4-(3-methylanilino)quinazoline | 0.2 g | N1(C=NC2=C1C=CC=C2)C=2C=C1C(=NC=NC1=CC2)NC2=CC(=CC=C2)C | C22H17N5
